US04261998
1. 2-(2-Chlorobenzoyl)-1,2,3,4-tetrahydroisoquinoline
26.08 g of 2-chlorobenzoyl chloride were reacted with 44.33 g (0.6 mol) of 1,2,3,4-tetrahydroisoquinoline in chloroform overnight, whilst stirring. After the chloroform had been driven off, the resulting solid was recrystallised from isopropyl alcohol.

reactant | 2-chlorobenzoyl chloride | 26.08 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.6 mol, 44.33 g | C1NCCC2=CC=CC=C12 | C9H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Chlorobenzoyl)-1,2,3,4-tetrahydroisoquinoline | ClC1=C(C(=O)N2CC3=CC=CC=C3CC2)C=CC=C1 | C16H14ClNO
